US05977110
A solution of trans-N-{4-[2-(4-phenyl-piperazin-1-yl)-ethyl]-cylohexylamine (0.43 g, 1.5 mmol), S-methyl-N,N'-dicarbobenzyloxy isothiourea (Nowak K. and Kania L., Rocz. Chem., 1969;43(11):1953-1960) (0.59 g, 1.65 mmol) and triethylamine (0.18 g, 1.8 mmol) in dimethylformamide (DMF) (50 mL) was stirred at room temperature 3 days. An additional amount of the starting amine (0.075 g, 0.26 mmol) was added, and the reaction mixture was allowed to stand one more day and then evaporated to dryness. The residue was recrystallized from Et2O-hexane to yield trans-N-{4-[2-(4-phenyl-piperazin-1-yl)-ethyl]-cyclohexyl-N, N'-dicarbobenzyloxyguanidine 0.568 g (63%) white solid; mp 136-137° C.

reactant | 4-[2-(4-phenyl-piperazin-1-yl)-ethyl]-cylohexylamine | 1.5 mmol, 0.43 g | C1(=CC=CC=C1)N1CCN(CC1)CCC1CCC(CC1)N | C18H29N3
reactant | S-methyl-N,N'-dicarbobenzyloxy isothiourea | 1.65 mmol, 0.59 g | CSC(NC(=O)OCC1=CC=CC=C1)=NC(=O)OCC1=CC=CC=C1 | C18H18N2O4S
reactant | triethylamine | 1.8 mmol, 0.18 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 4-[2-(4-phenyl-piperazin-1-yl)-ethyl]-cyclohexyl-N, N'-dicarbobenzyloxyguanidine | 0.568 g, 63% | C1(=CC=CC=C1)N1CCN(CC1)CCC1CCC(CC1)N(C(=N)NC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C35H43N5O4
